US07582668B2
1,1-dimethylethyl (4R)-4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-5-iodopentanoate
To a solution of crude 1,1-dimethylethyl (4R)-4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-5-hydroxypentanoate (23.8 g, 82.4 mmol), triphenylphosphine (32.42 g, 123.6 mmol) and imidazole (8.41 g, 123.6 mmol) in 515 mL anhydrous CH2Cl2 under N2 at 0° C. was added iodine over 15 min portionwise. The ice bath was removed, and the reaction was allowed to warm to room temperature and stirred over 30 min. The reaction was quenched with 200 mL H2O, and the aqueous layer was extracted with diethyl ether (2×150 mL). The combined organic layers were washed with sat. aq. Na2SO3 solution (2×25 mL) and brine (25 mL), dried over MgSO4, and concentrated in vacuo. Purification of the residue by silica gel chromatography (Analogix IF280, 5% -50% EtOAc/Hex) afforded the title compound as a white solid (25.34 g, 77%). ESMS [M+H]+=400.4.

reactant | 1,1-dimethylethyl (4R)-4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-5-hydroxypentanoate | 82.4 mmol, 23.8 g | CC(C)(C)OC(=O)N[C@H](CCC(=O)OC(C)(C)C)CO | C14H27NO5
reactant | triphenylphosphine | 123.6 mmol, 32.42 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 123.6 mmol, 8.41 g | N1C=NC=C1 | C3H4N2
reactant | iodine | II | I2
solvent | CH2Cl2 | 515 mL | C(Cl)Cl | CH2Cl2
product | 1,1-dimethylethyl (4R)-4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-5-iodopentanoate | 25.34 g, 77% | CC(C)(C)OC(=O)N[C@H](CCC(=O)OC(C)(C)C)CI | C14H26INO4
